US05300506
To a solution of 1.14 g (3.98 mmol, 1.0 equiv.) of methyl 2-methoxycarbonyl-3-(5-cyano-1H-indol-3-yl)propanoate in 20 mL of pyridine was added 1.19 g (7.96 mmol, 2.0 equiv.) of sodium iodide. The mixture was heated to reflux for sixteen hours. The solution was cooled and diluted with 150 mL of chloroform. The organic layer was washed once with 25 mL of saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated. The resulting residue was filtered through a plug of silica gel with 1:1 ethyl acetate:hexane to remove colored impurities to provide 0.734 g (81%) of methyl 3-(5-cyano-1H-indol-3-yl)propanoate.

reactant | methyl 2-methoxycarbonyl-3-(5-cyano-1H-indol-3-yl)propanoate | 3.98 mmol, 1.14 g, 1.0 equiv. | COC(=O)C(C(=O)OC)CC1=CNC2=CC=C(C=C12)C#N | C15H14N2O4
reactant | sodium iodide | 7.96 mmol, 1.19 g, 2.0 equiv. | [I-].[Na+]
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-(5-cyano-1H-indol-3-yl)propanoate | 0.734 g, 81% | C(#N)C=1C=C2C(=CNC2=CC1)CCC(=O)OC | C13H12N2O2
